US07632850B2
9.1. 3-(4-bromobenzyl)-1,3-oxazolidine-2,4-dione
A solution of 1.50 g (6 mmol) of 4-bromobenzyl bromide and 0.73 g (7.2 mmol) of 1,3-oxazolidine-2,4-dione in 6 ml of tetrahydrofuran is admixed dropwise with a solution of 1.39 g (12 mmol) of 1,1,3,3-tetramethylguanidine in 6 ml of tetrahydrofuran. The mixture is stirred at ambient temperature overnight. 50 ml of ice-cold aqueous hydrochloric acid (1N) and 100 ml of ethyl acetate are added. The organic phase is separated after settling out and washed successively with 25 ml of water and 25 ml of saturated aqueous sodium chloride solution. It is dried over sodium sulphate and the filtrate is concentrated under reduced pressure. The residue is purified by chromatography on silica gel, eluting with an 80/20 mixture of cyclohexane and ethyl acetate. 1.14 g of product are obtained in the form of white crystals.

reactant | 4-bromobenzyl bromide | 6 mmol, 1.50 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | 1,3-oxazolidine-2,4-dione | 7.2 mmol, 0.73 g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | 1,1,3,3-tetramethylguanidine | 12 mmol, 1.39 g | CN(C(=N)N(C)C)C | C5H13N3
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 3-(4-bromobenzyl)-1,3-oxazolidine-2,4-dione | 1.14 g | BrC1=CC=C(CN2C(OCC2=O)=O)C=C1 | C10H8BrNO3
